US05939448
To a solution of 2-(2,4-difluorophenyl)-1,1-difluoro-1-(2-hydroxyethyl)thio-3-(1H-1,2,4-triazol-1-yl)propan-2-ol (9.10 g, 0.026 mol) in dichloromethane (250 ml), 85% m-chloroperbenzoic acid (14.8 g, 0.073 mol) was added at room temperature, followed by stirring at room temperature for one hour. After the completion of the reaction, a saturated aqueous solution of sodium thiosulfate and a saturated solution of sodium bicarbonate were added to the reaction mixture and they were stirred. The dichloromethane solution was separated, washed with water, dried over anhydrous magnesium sulfate and then distilled off under reduced pressure. The residue so obtained was recrystallized from isopropyl ether--ethyl acetate, whereby 2-(2,4-difluorophenyl)-1,1-difluoro-1-(2-hydroxyethyl)sulfonyl-3-(1H-1,2,4-triazol-1-yl)propan-2-ol (4.43 g, yield: 44.6%) was obtained as colorless crystals.

reactant | 2-(2,4-difluorophenyl)-1,1-difluoro-1-(2-hydroxyethyl)thio-3-(1H-1,2,4-triazol-1-yl)propan-2-ol | 0.026 mol, 9.10 g | FC1=C(C=CC(=C1)F)C(C(SCCO)(F)F)(CN1N=CN=C1)O | C13H13F4N3O2S
reactant | m-chloroperbenzoic acid | 0.073 mol, 14.8 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 250 ml | ClCCl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-(2,4-difluorophenyl)-1,1-difluoro-1-(2-hydroxyethyl)sulfonyl-3-(1H-1,2,4-triazol-1-yl)propan-2-ol | 4.43 g, yield: 44.6% | FC1=C(C=CC(=C1)F)C(C(S(=O)(=O)CCO)(F)F)(CN1N=CN=C1)O | C13H13F4N3O4S
